* C:\users\aschau\Meine Dokumente\Master Drittes Semester\Übergabe_Schau\OPV-ideal.asc
r2 p out 10k
R1 in p 1k
V1 in 0 1 AC 1
XU1 p 0 out opv0
XU2 N001 0 out2 0 nullor
R3 N001 out2 10k
R4 in N001 1k
.op
.options gfloat=0.0
.lib HTWDD_DS/electronics.lib
.backanno
.end
